US08633212B2
A mixture of azetidine-3-carbonitrile hydrochloride (5.03 g, 42 mmol), Boc2O (10.75 g, 49 mmol), and NaHCO3 (10.1 g, 120 mmol) in CH2Cl2 (50 mL) and H2O (20 mL) was vigorously stirred at room temperature for 15 h. The organic phase was separated and aqueous phase was extracted with CH2Cl2. The combined organic layers were dried over Na2SO4. After the solvent was evaporated under reduced pressure, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 7.3143 g (95%) of tert-butyl 3-cyanoazetidine-1-carboxylate as a solid. LC-MS tR=1.27 min in 3 min chromatography, m/z 183 (MH+), 168 (MH+-15), 127 (MH+-56); 1H NMR (400 MHz, CDCl3) δ 4.23-4.15 (m, 4H), 3.43-3.35 (m, 1H), 1.44 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 155.40, 119.43, 80.68, 52.37, 28.21, 16.99.

reactant | azetidine-3-carbonitrile hydrochloride | 42 mmol, 5.03 g | Cl.N1CC(C1)C#N
reactant | Boc2O | 49 mmol, 10.75 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 120 mmol, 10.1 g | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 20 mL | O | H2O
product | tert-butyl 3-cyanoazetidine-1-carboxylate | 7.3143 g, 95% | C(#N)C1CN(C1)C(=O)OC(C)(C)C | C9H14N2O2
